US04526719
Silver oxide (15 g) was added to a solution of 2,3-dimethoxy-5-methyl-6-morpholinomethylhydroquinone (9 g) as obtained in Reference Example 8 in ether-dioxane (5:2, 70 ml) and the mixture was stirred at room temperature for 1.5 hours. The filtrate was treated in the conventional manner and the residue was recrystallized from ethyl acetate-hexane to give 2,3-dimethoxy-5-methyl-6-morpholinomethyl-1,4-benzoquinone (4.5 g), melting at 60°-62° C.

reactant | 2,3-dimethoxy-5-methyl-6-morpholinomethylhydroquinone | 9 g | COC1=C(O)C(=C(C(=C1OC)O)C)CN1CCOCC1 | C14H21NO5
catalyst | Silver oxide | 15 g | [Ag]=O
product | 2,3-dimethoxy-5-methyl-6-morpholinomethyl-1,4-benzoquinone | 4.5 g | COC=1C(C(=C(C(C1OC)=O)C)CN1CCOCC1)=O | C14H19NO5
